US06313344B1
d) 2-[[[(1-Methyl-2-(4-(1-{4-chlorophenyl}-ethoxy)-phenyl)-[ethoxyimino]ethylidene)-amino]oxy]methyl]-α-(methoxymethylene)-phenylacetic acid methyl ester
7 g of 1-[4-(1-{4-chlorophenyl)-ethoxy}-phenyl]-1,2-propanedione-[ethyloxime]-2-oxime dissolved in 25 ml of N,N-dimethylformamide are added dropwise to a suspension of 0.9 g of sodium hydride (55% in oil) in 40 ml of N,N-dimethylformamide and the reaction mixture is then stirred for 10 minutes at room temperature. 5.5 g of 2-(bromomethyl)-α-(methoxymethylene)-phenylacetic acid methyl ester in 20 ml of N,N-dimethylformamide are then added dropwise and the reaction mixture is stirred for a further 1 hour at room temperature. The mixture is then rendered acidic with acetic acid and concentrated by evaporation in vacuo. The residue is dissolved in ethyl acetate and the solution is washed three times with water and once with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation in vacuo. Purification by flash chromatography (silica gel, ethyl acetate/hexane 1:3) yields the E isomer of the title compound having a melting point of 107-109° C. (compound 1-4.2).

reactant | 1-[4-(1-{4-chlorophenyl)-ethoxy}-phenyl]-1,2-propanedione-[ethyloxime]-2-oxime | 7 g | C(C)ON=C(C(C)=NO)C1=CC=C(C=C1)OC(C)C1=CC=C(C=C1)Cl | C19H21ClN2O3
reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | 2-(bromomethyl)-α-(methoxymethylene)-phenylacetic acid methyl ester | 5.5 g | COC(C(=COC)C1=C(C=CC=C1)CBr)=O | C12H13BrO3
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-[[[(1-Methyl-2-(4-(1-{4-chlorophenyl}-ethoxy)-phenyl)-[ethoxyimino]ethylidene)-amino]oxy]methyl]-α-(methoxymethylene)-phenylacetic acid methyl ester | COC(C(=COC)C1=C(C=CC=C1)CON=C(C(C1=CC=C(C=C1)OC(C)C1=CC=C(C=C1)Cl)=NOCC)C)=O | C31H33ClN2O6
